US08003649B2
3-Fluorophenylmagnesium bromide (1.0M in THF, 1.68 mL, 1.68 mmol) was added dropwise to 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-one (400 mg, 1.40 mmol) in THF (10 mL) cooled to 0° C. over a period of 10 minutes. The resulting mixture was stirred at 0° C. for 20 minutes, then quenched with saturated ammonium chloride solution (20 mL) and extracted with ethyl acetate. The extract was washed with saturated brine, dried over MgSO4 and evaporated to a pale orange oil which was triturated with DCM to give a beige solid. The solid was filtered, washed with DCM and dried, then purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 4-(3-fluorophenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol (96 mg, 18%) as a colourless solid.

reactant | 3-Fluorophenylmagnesium bromide | 1.68 mmol, 1.0M, 1.68 mL | FC=1C=C(C=CC1)[Mg]Br
reactant | 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-one | 1.40 mmol, 400 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)=O)(F)F | C11H10F3N5O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(3-fluorophenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 96 mg, 18% | FC=1C=C(C=CC1)C1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)O | C17H15F4N5O
